US06329370B1
7-Methoxy 4-pyridin-4-ylmethyl-2H-phthalazin-1-one (Compound 79)
A solution of (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide (43.5 g, 0.0861 mole), prepared as described in example 36, and 4-pyridincarboxaldehyde (9.22 g, 0.0861 mole) in CH2Cl2 (300 ml) was dropwise added with triethylamine (12 ml, 0.0861 mole) while controlling the temperature in water bath. After 1 night under stirring at room temperature, the mixture was washed with water, discoloured, anhydrified and dried. The residue was suspended in CH3OH (135 ml) and added with hydrazine monohydrate (12.55 ml, 0.2583 mole). The mixture was refluxed for 1 hour, then cooled in water/ice, filtered and dried. The residue was crystallised in CH3OH to give 8 g of the title compound. The mother liquors were dried and the residue triturated in CH3OH (50 ml) to give further 3.5 g of the title compound (total yield: 50%).

reactant | (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide | 0.0861 mole, 43.5 g | [Br-].COC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | 4-pyridincarboxaldehyde | 0.0861 mole, 9.22 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | triethylamine | 0.0861 mole, 12 ml | C(C)N(CC)CC | C6H15N
reactant | hydrazine monohydrate | 0.2583 mole, 12.55 ml | O.NN
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-Methoxy 4-pyridin-4-ylmethyl-2H-phthalazin-1-one | 8 g | COC1=CC=C2C(=NNC(C2=C1)=O)CC1=CC=NC=C1 | C15H13N3O2
